US04146727
0.3 g. of an ethyl ester of 2-[(ethoxycarbonyl)-phenylaminomethyl]phenylcarbamic acid (N-benzyl compound), prepared as in Example 1, along with 1.0 g. of 96.4 weight percent concentrated sulfuric acid was charged to a 300 ml reaction flask. The mixture was heated to 100° C. on a constant temperature bath for 60 minutes. High speed liquid chromatographic analysis showed conversion of the ethyl ester of 2-[(ethoxycarbonyl)phenylaminomethyl]phenylcarbamic acid to the diethyl ester of 2,4'-methylenebis(phenylcarbamic) acid and higher homologs to be 99+ percent with minor amounts of ethylphenylcarbamate. After acid extraction with water, the resulting 2,4'-methylenebis(phenylcarbamic) acid, diethyl ester (diurethane) was subjected to thermal decomposition by the method described in U.S. Pat. No. 3,962,302 to produce the diphenylmethane-2,4'-diisocyanate in good yield.

reactant | 2-[(ethoxycarbonyl)-phenylaminomethyl]phenylcarbamic acid | C(C)OC(=O)C(C1=C(C=CC=C1)NC(O)=O)NC1=CC=CC=C1 | C17H18N2O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethylphenylcarbamate | C(C)OC(NC1=CC=CC=C1)=O | C9H11NO2
product | diphenylmethane-2,4'-diisocyanate | C1=CC=C(C(=C1)CC2=CC=C(C=C2)N=C=O)N=C=O | C15H10N2O2
